US06462075B1
1,5-Bis(2,6-dichlorophenyl)-1E,4E-pentadien-3-one.
(73) To a 0.33 M solution of 2,6-dichlorobenzaldehyde (1.75 g, 10 mmol) and acetone (290 mg, 5 mmol) in 30 was added 5 ml of 40% potassium hydroxide at 10° C. After stirring for 18 hr at room temperature, a solid precipitated and was filtered. The precipitate was recrystallized from ethanol to afford 1.46 g (78.5%) of pale yellow, cotton-like flakes: mp 154.0-154.4° C. (lit. mp 145-146° C., Unterhalt, Arch. Pharm., 1978, 311, 262-267). 1H NMR (250 MHz) δ 7.85-7.79 (d, 2H), 7.40-7.36 (d, 4H), 7.26-7.19 (d, 2H), 7.24-7.18 (m, 2H); 13C NMR (62.7 MHz) 189.1, 137.6, 135.4, 133.3, 132.5, 130.2, 129.1 ppm.

reactant | 2,6-dichlorobenzaldehyde | 10 mmol, 1.75 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | acetone | 5 mmol, 290 mg | CC(=O)C | C3H6O
reactant | potassium hydroxide | 5 ml | [OH-].[K+]
product | 1,5-Bis(2,6-dichlorophenyl)-1E,4E-pentadien-3-one | ClC1=C(C(=CC=C1)Cl)\C=C\C(\C=C\C1=C(C=CC=C1Cl)Cl)=O | C17H10Cl4O
